US06645973B1
Step B: 7-Methoxy-N-methyl-4-phenyl-spiro[2H-1-benzopyran-2,4′-piperidine]
To a stirred solution of 7-methoxy-N-methylspiro[2H-1-benzopyran-2,4′-piperidine]4(3H)-one (6.19 g, 23.72 mmol), in anhydrous tetrahydrofuran (80 cm3) under an atmosphere of anhydrous nitrogen was added drop-wise a solution of phenylmagnesium bromide in tetrahydrofuran (40 cm3, 1.0 M, 40 mmol) maintaining the reaction temperature below 30° C. When the addition was complete the reaction was stirred at room temperature for 2.5 h at which time the reaction was incomplete but no Grignard reagent was present. A further portion of phenylmagnesium bromide (13.3 cm3) was carefully added to the reaction and it was allowed to stir overnight. Water (30 cm3) was added followed by saturated aqueous ammonium chloride solution (30 cm3). The volatiles were removed in vacuo before the resulting material was treated with diethyl ether (100 cm3) and water (100 cm3). The organic layer was separated before the aqueous portion was extracted further with diethyl ether (2×100 cm3). The combined extracts were washed with water (3×100 cm3), dried over sodium sulfate and the ether was removed in vacuo. The residue was triturated with a little diethyl ether and the resulting crystals were isolated by vacuum filtration (4.57 g, 12.15 mmol, 51%). This solid was then taken up into ethyl alcohol (75 cm3) and treated with hydrochloric acid (75 cm3, 2 N) before being heated to reflux for 1.5 h. The solution was concentrated under reduced pressure until a solid began to crystallise. The mixture was then cooled and the solid was isolated by vacuum filtration. This was then treated with a mixture of water (300 cm3), saturated aqueous potassium bicarbonate solution (50 cm3) and diethyl ether (650 cm3) and shaken. The aqueous layer was separated and extracted with diethyl ether (2×100 cm3) before the combined extracts were washed with water (3×250 cm3), dried over sodium sulfate and the volatiles were removed in vacuo to afford the title compound (3.91 g, 12.18 mmol, 51% from ketone).

reactant | 7-methoxy-N-methylspiro[2H-1-benzopyran-2,4′-piperidine]4(3H)-one | 23.72 mmol, 6.19 g | COC1=CC2=C(C(CC3(CCN(CC3)C)O2)=O)C=C1 | C15H19NO3
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | phenylmagnesium bromide | 13.3 cm3 | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | 30 cm3 | [Cl-].[NH4+]
reactant | hydrochloric acid | 2 N, 75 cm3 | Cl | ClH
reactant | potassium bicarbonate | 50 cm3 | C([O-])(O)=O.[K+]
solvent | tetrahydrofuran | 80 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mmol, 1.0 M, 40 cm3 | O1CCCC1 | C4H8O
solvent | diethyl ether | 650 cm3 | C(C)OCC | C4H10O
solvent | water | 300 cm3 | O | H2O
solvent | ethyl alcohol | 75 cm3 | C(C)O | C2H6O
solvent | Water | 30 cm3 | O | H2O
product | 7-Methoxy-N-methyl-4-phenyl-spiro[2H-1-benzopyran-2,4′-piperidine] | 12.18 mmol, 3.91 g, 51% | COC1=CC2=C(C(=CC3(CCN(CC3)C)O2)C2=CC=CC=C2)C=C1 | C21H23NO2
